US04730008
N,N-Diethyl-4-iodobenzeneacetamide
4-Iodobenzeneacetyl chloride (10.62 g) was added portionwise to diethylamine (3.0 g) in triethylamine (40 ml) and washed in with MC (5 ml) at 0° under nitrogen and the suspension was stirred at room temperature for 2 h. ER (150 ml) was added, the mixture was filtered and the filtrate was concentrated to give a residue (7.94 g) which was purified by FCC eluting with ER-H (2:1) to give the title compound as a yellow oil (4.72 g). T.l.c. (ER) Rf 0.31.

reactant | 4-Iodobenzeneacetyl chloride | 10.62 g | IC1=CC=C(C=C1)CC(=O)Cl | C8H6ClIO
reactant | diethylamine | 3.0 g | C(C)NCC | C4H11N
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | N,N-Diethyl-4-iodobenzeneacetamide | 7.94 g | C(C)N(C(CC1=CC=C(C=C1)I)=O)CC | C12H16INO
